US04075225
2-Cyano-6,11-dihydro-5H-pyrrolo[2,1-b][3]benzazepin-11-one (30 g., 0.135 mole) in 100 ml. of concentrated hydrochloric acid and 100 ml. of acetic acid was refluxed for 2 hours. It was then poured onto 500 ml. of water and continuously extracted with methylene chloride. The solution, from which crystals deposited during the extraction, was left to cool to room temperature and filtered to afford 2-carbamoyl-6,11-dihydro-11-oxo-5H-pyrrolo[2,1-b]-[3]benzazepine (27 g. 83%), m.p. 228° C.

reactant | 2-Cyano-6,11-dihydro-5H-pyrrolo[2,1-b][3]benzazepin-11-one | 0.135 mole, 30 g | C(#N)C=1C=C2C(C3=C(CCN2C1)C=CC=C3)=O | C14H10N2O
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2-carbamoyl-6,11-dihydro-11-oxo-5H-pyrrolo[2,1-b]-[3]benzazepine | 27 g, 83% | C(N)(=O)C=1C=C2C(C3=C(CCN2C1)C=CC=C3)=O | C14H12N2O2
